US06489314B1
(f) (5S)-5-azido-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene
A solution of (5R)-5-hydroxy-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene (1.74 g) in 30 mL of toluene is cooled to 0° C. and treated with diphenylphosphoryl azide (1.65 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.91 g) for 2 hours. The mix is warmed to ambient temperature and diluted with ethyl acetate. The solution is washed sequentially with water, sat. NaHCO3, and brine, then dried over MgSO4, filtered, and evaporated. The product is purified by SiO2 chromatography (7.5% ethyl acetate/hexanes).

reactant | (5R)-5-hydroxy-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene | 1.74 g | O[C@H](CC=C(C)I)C(=CC=1N=C(SC1)C)C | C12H16INOS
reactant | diphenylphosphoryl azide | 1.65 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.91 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5S)-5-azido-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene | N(=[N+]=[N-])[C@@H](CC=C(C)I)C(=CC=1N=C(SC1)C)C | C12H15IN4S
